US09079911B2
Intermediate 87: 4-Fluoro-2-(pyrimidin-2-yl)benzoic acid
4-Fluoro-2-(pyrimidin-2-yl)benzonitrile (85 mg, 0.4 mmol) was hydrolyzed to the acid in water (1 mL) by addition of 18 M H2SO4 (1 mL). The reaction was heated at 100° C. for 10 min, then cooled to 23° C., and extracted with EtOAc (3×5 mL). The combined organics were dried (Na2SO4) and concentrated under reduced pressure. This material was used crude in subsequent reactions.

reactant | 4-Fluoro-2-(pyrimidin-2-yl)benzonitrile | 0.4 mmol, 85 mg | FC1=CC(=C(C#N)C=C1)C1=NC=CC=N1 | C11H6FN3
reactant | H2SO4 | 18 M, 1 mL | OS(=O)(=O)O | H2O4S
reactant | water | 1 mL | O | H2O
product | 4-Fluoro-2-(pyrimidin-2-yl)benzoic acid | FC1=CC(=C(C(=O)O)C=C1)C1=NC=CC=N1 | C11H7FN2O2
